US04841045
4-Carbomethoxy Valeraldehyde
To a stirred solution of 7.80 g (0.069 mol) of α-methyl-δ-valerolactone in 5 mL of dry methanol was added 6 mL of conc. sulfuric acid. After 20 min the mixture was neutralized with 200 mL of cold satd. sodium bicabonate solution and extracted with 4×20 mL of cold dichloromethane. The cold extracts were dried (MgSO4) and the solution immediately added to a stirring suspension of 53.99 g (2.7 equivalent) of pulverized pyridinium chlorochromate and 1.85 g (0.0226 mol) of sodium acetate in 80 mL of dry dichloromethane. After 30 min 3 g of silica gel was added and the slurry poured onto a 150 g silica gel column. Elution with ether, concentration of the eluate, solution of the residue in 20 mL of dichloromethane and washing of the solution with 3×30 mL of 1M HCl and 3×30 mL of satd. aqueous sodium bicarbonate, concentration and distillation gave 1.6-4.0 g (16- 40%) of the title product, bp 90°-115° C. (0.6 mm); NMR δ6 9.75 (t, 1H).

reactant | α-methyl-δ-valerolactone | 0.069 mol, 7.80 g | CC1C(=O)OCCC1 | C6H10O2
reactant | sulfuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
reactant | pyridinium chlorochromate | 53.99 g, 2.7 equivalent | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | sodium acetate | 0.0226 mol, 1.85 g | C(C)(=O)[O-].[Na+]
reactant | methanol | 5 mL | CO | CH4O
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 4-Carbomethoxy Valeraldehyde | 1.6-4.0 g, 16- 40% | C(=O)(OC)C(CCC=O)C | C7H12O3
